US07875728B2
Preparation of N-[5-phenyl-4-(phenylhydrazono)-4H-pyrazol-3-yl]nicotinamide
5-Phenyl-4-(phenylhydrazono)-4H-pyrazol-3-ylamine (66 mg, 0.25 mmol) was dissolved in 5 mL of anhydrous methylene chloride. Nicotinoylchloride hydrochloride (50 mg, 0.28 mmol) and triethylamine (78 μL, 0.56 mmol) were added to the solution. Slight fuming of the reaction was noted and the solution became red. The reaction was stirred at ambient temperature for 48 hours. The reaction was filtered to remove a small amount of white solid. To the filtrate was added 30 mL of methylene chloride. The solution was washed with 20 mL of a 5% HCl solution. The aqueous layer was washed with methylene chloride and the combined methylene chloride fractions were washed with water and saturated NaHCO3 solution. The methylene chloride solution was dried over MgSO4, filtered, and evaporated to afford a solid. The material was purified by flash chromatography (CH2Cl2:MeOH=15:1) to yield 34 mg (36%) of the title compound as a yellow solid. 1H NMR (ppm, 200 MHz, CDCl3) δ 7.30-7.55 (m, 8H), 7.75 (d, 2H), 8.20-8.30 (m, 2H), 8.55 (d, 1H), 8.81 (d, 1H), 9.45 (s, 1H).

reactant | 5-Phenyl-4-(phenylhydrazono)-4H-pyrazol-3-ylamine | 0.25 mmol, 66 mg | C1(=CC=CC=C1)C=1C(C(=NN1)N)=NNC1=CC=CC=C1 | C15H13N5
reactant | Nicotinoylchloride hydrochloride | 0.28 mmol, 50 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethylamine | 0.56 mmol, 78 μL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[5-phenyl-4-(phenylhydrazono)-4H-pyrazol-3-yl]nicotinamide | 34 mg, 36% | C1(=CC=CC=C1)C=1C(C(=NN1)NC(C1=CN=CC=C1)=O)=NNC1=CC=CC=C1 | C21H16N6O
